US05346914
To an ice-cooled solution of 4-(3-t-butyloxycarbonylaminophenyl)-4-hydroxytetrahydropyran (2.0 g, 6.8 mmol), prepared as in step 2, in dichloromethane (14 mL) was added trifluoroacetic acid (14, mL). The resulting solution was stirred for 0.25 hours at 0° C. and 1 hour at ambient temperature. The volatiles were removed in vacuo and the resulting solution was basified with saturated aqueous potassium carbonate. The resulting mixture was diluted with dichloromethane and the layers separated. The aqueous layer was extracted (4x, dichloromethane). The combined organic layers were dried (MgSO4), and concentrated in vacuo to provide a solid. Trituration with hexanes provided 4-(3-aminophenyl)-4-hydroxytetrahydropyran as a colorless solid (1.01 g, 77%). mp 154°-155° C. 1H NMR (300 MHz, CDCl13) δ7.17 (1H, dt, J=7.5 ,1 Hz), 6.84-6.88 (2H, m), 6.62 Hz), (1H, br d, J=7.5 Hz), 3.93 (2H, td, J=12, 12, 2.5 Hz), 3.84 (2H, ddd, J=12, 5, 1.5 2.05-32 (4H, m). MS m/e 193 (M+NH4 -H2O)+, 211 (M+NH4)+.

reactant | 4-(3-t-butyloxycarbonylaminophenyl)-4-hydroxytetrahydropyran | 6.8 mmol, 2.0 g | C(C)(C)(C)OC(=O)NC=1C=C(C=CC1)C1(CCOCC1)O | C16H23NO4
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 14 mL | ClCCl | CH2Cl2
product | 4-(3-aminophenyl)-4-hydroxytetrahydropyran | 1.01 g, 77% | NC=1C=C(C=CC1)C1(CCOCC1)O | C11H15NO2
